US05608056
To a solution of (2R,4S)-4-acetylthio-1-allyloxycarbonyl-2-(cyanomethyl) pyrrolidine (8.20 g) in tetrahydrofuran (40 ml) and methanol (40 ml) was added a 28% sodium methoxide in methanol solution (6.03 ml) at ice-cooling. After stirring at ice-cooling for 30 minutes, chlorotriphenylmethane (8.31 g) was added to the cold solution. After stirring at the same temperature for 2 hours, the solution was poured into a mixture of ethyl acetate and water. The separated organic layer was washed with aqueous sodium chloride solution twice, dried over magnesium sulfate and evaporated. The residue was subjected to a column chromatography on silica gel (eluent; n-hexane:ethyl acetate=5:1) to give (2R,4S)-1-allyloxycarbonyl-2-cyanomethyl-4-(triphenylmethylthio)pyrrolidine (11.7 g).

reactant | (2R,4S)-4-acetylthio-1-allyloxycarbonyl-2-(cyanomethyl) pyrrolidine | 8.20 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC=C)CC#N | C12H16N2O3S
reactant | sodium methoxide | C[O-].[Na+]
reactant | chlorotriphenylmethane | 8.31 g | ClC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | methanol | 40 ml | CO | CH4O
solvent | methanol | 6.03 ml | CO | CH4O
solvent | water | O | H2O
product | (2R,4S)-1-allyloxycarbonyl-2-cyanomethyl-4-(triphenylmethylthio)pyrrolidine | 11.7 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC#N | C29H28N2O2S
